### PR TITLE
doc: review of Nat docstrings

### PR DESCRIPTION
**Pull request by david-christiansen**
This PR adds missing `Nat` docstrings and makes their style consistent.

### CODE REVIEW

File: src/Init/Prelude.lean [hunk 1]
```diff
@@ -1121,47 +1121,26 @@ propositional connective is `Not : Prop → Prop`.
...
-open Nat
-example (n : Nat) : n < succ n := by
-  induction n with
-  | zero =>
-    show 0 < 1
-    decide
-  | succ i ih => -- ih : i < succ i
-    show succ i < succ (succ i)
-    exact Nat.succ_lt_succ ih
-```
```
Comment (b-mehta) [inline src/Init/Prelude.lean:1144]: I can understand why this section was removed but my opinion is that it's worth having something around. The Nat type is probably most users' first inductive type, and maybe one of the first types at all, and one of the most natural candidates (no pun intended) for a new user's first proof (my first ever Lean proof was n + n = 2 * n), so giving an example of induction here is pretty valuable in my view.

File: src/Init/Prelude.lean [hunk 2]
```diff
@@ -1619,11 +1598,10 @@ class Membership (α : outParam (Type u)) (γ : Type v) where
 
 set_option bootstrap.genMatcherCode false in
 /--
-Addition of natural numbers.
+Addition of natural numbers, typically used via the `+` operator.
 
-This definition is overridden in both the kernel and the compiler to efficiently
-evaluate using the "bignum" representation (see `Nat`). The definition provided
-here is the logical model (and it is soundness-critical that they coincide).
```
Comment (b-mehta) [inline src/Init/Prelude.lean:1626]: Looking at the docstrings here and below, I notice that all the soundness-critical mentions have been removed. Out of curiosity, is there a reason for this: is it still true? Or is it just not very important and hence not worth mentioning

File: src/Init/Prelude.lean [hunk 3]
```diff
@@ -1731,19 +1715,22 @@ def Nat.ble : @& Nat → @& Nat → Bool
   | succ n, succ m => ble n m
 
 /--
-An inductive definition of the less-equal relation on natural numbers,
-characterized as the least relation `≤` such that `n ≤ n` and `n ≤ m → n ≤ m + 1`.
+Non-strict inequality of natural numbers, usually accessed via the `≤` operator.
```
Comment (b-mehta) [inline src/Init/Prelude.lean:1718]:
```suggestion
Non-strict, or weak inequality of natural numbers, usually accessed via the `≤` operator.
```

File: src/Init/Prelude.lean [hunk 4]
```diff
@@ -1731,19 +1715,22 @@ def Nat.ble : @& Nat → @& Nat → Bool
...
   | step {m} : Nat.le n m → Nat.le n (succ m)
 
 instance instLENat : LE Nat where
   le := Nat.le
 
-/-- The strict less than relation on natural numbers is defined as `n < m := n + 1 ≤ m`. -/
+/--
+Strict inequality of natural numbers, usually accessed via the `<` operator.
+
+By definition, `n < m = n + 1 ≤ m`.
```
Comment (b-mehta) [inline src/Init/Prelude.lean:1732]:
```suggestion
It is defined as `n < m = n + 1 ≤ m`.
```
nit: I want it to be very clear that this is the definition, and not a property which follows from the definition

**Review by b-mehta — APPROVED** [review]
This looks really nice! I've made a few comments, all minor.

I don't know how much my review is appreciated here, but I thought I'd make some comments anyway because good documentation is important to me, and also because knowing that Nat.div is meant to be written as `/` would have helped one of my students!

File: src/Init/Data/Nat/Div/Basic.lean [hunk 5]
```diff
@@ -72,6 +89,17 @@ theorem div_lt_self {n k : Nat} (hLtN : 0 < n) (hLtK : 1 < k) : n / k < n := by
     have := Nat.add_le_of_le_sub hKN this
     exact Nat.lt_of_lt_of_le (Nat.add_lt_add_left hLtK _) this
 
+/--
+The modulo operator, which computes the remainder when dividing one natural number by another.
+Usually accessed via the `%` operator. When the divisor is `0`, the result is the dividend rather
+than an error.
+
+This is the core implementation of `Nat.mod`. It does not reduce definitionally, which is desired in
```
[the remark this answers is not in the document]
Comment (david-christiansen) [reply src/Init/Data/Nat/Div/Basic.lean:97]: The original reading was the right one!

In any case, this documentation was obsoleted by #7558. I'll rewrite as part of merging in `master`.

File: src/Init/Data/SInt/Basic.lean [hunk 6]
```diff
@@ -86,9 +86,29 @@ theorem Int8.toBitVec.inj : {x y : Int8} → x.toBitVec = y.toBitVec → x = y
 def Int8.mk (i : UInt8) : Int8 := UInt8.toInt8 i
 @[extern "lean_int8_of_int"]
 def Int8.ofInt (i : @& Int) : Int8 := ⟨⟨BitVec.ofInt 8 i⟩⟩
+/--
```
[the remark this answers is not in the document]
Comment (david-christiansen) [reply src/Init/Data/SInt/Basic.lean:89]: I've tried to keep these docstring PRs non-invasive, leaving things like inter-definition spacing alone. It could be good to revisit this, but I think that's better to do in a separate pass.

File: src/Init/Prelude.lean (hunk 2 above)
Comment (david-christiansen) [reply src/Init/Prelude.lean:1626]: I'm thinking about these docstrings from the perspective of where they appear:
 1. Editor hovers, next to signatures, in the context of uses of the symbol
 2. doc-gen output, next to signatures and in the context of the module where they're defined
 3. In the language reference manual, grouped conceptually by language/library feature

Most of these are not well-suited to lots of text, especially not editor hovers. The majority of them should support a quick glance or a skim most of the time. So I'm trying to prioritize, and provide the information that's most important in these contexts, with a very short first paragraph that is enough for most people, a bit more details when it seems important, and then examples in a consistent format.

I think this information is important, but not really in the contexts where people are reading docstrings. Instead, I think it belongs in the reference manual, where it can be part of a deeper dive into the details of data representation. I'll make sure it ends up there.

File: src/Init/Data/Nat/Control.lean [hunk 7]
```diff
@@ -8,33 +8,77 @@ import Init.Control.Basic
...
+````
+-/
 @[inline] def forRevM {m} [Monad m] (n : Nat) (f : (i : Nat) → i < n → m Unit) : m Unit :=
   let rec @[specialize] loop : ∀ i, i ≤ n → m Unit
     | 0,   _ => pure ()
     | i+1, h => do f i (by omega); loop i (Nat.le_of_succ_le h)
   loop n (by simp)
 
+/--
+Applies a monadic function to all the numbers less than some bound, in increasing order, computing a
```
[the remark this answers is not in the document]
Comment (david-christiansen) [reply src/Init/Data/Nat/Control.lean:59]: I've been trying to use words other than the name of the function when the name is functional programming jargon. I'll find a phrasing that is more clear.

File: src/Init/Data/Nat/Div/Basic.lean [hunk 8]
```diff
@@ -20,6 +20,19 @@ instance : Dvd Nat where
 theorem div_rec_lemma {x y : Nat} : 0 < y ∧ y ≤ x → x - y < x :=
   fun ⟨ypos, ylex⟩ => sub_lt (Nat.lt_of_lt_of_le ypos ylex) ypos
 
+/--
+Division of natural numbers, discarding the remainder. Division by `0` returns `0`. Usually accessed
+via the `/` operator.
```
[the remark this answers is not in the document]
Comment (david-christiansen) [reply src/Init/Data/Nat/Div/Basic.lean:29]: Agreed - I'll stick it in paragraph 2, though.

File: src/Init/Data/Nat/Log2.lean [hunk 9]
```diff
@@ -18,9 +18,15 @@ theorem log2_terminates : ∀ n, n ≥ 2 → n / 2 < n
     simp
 
 /--
-Computes `⌊max 0 (log₂ n)⌋`.
+Base-two logarithm of natural numbers. Returns `⌊max 0 (log₂ n)⌋`.
```
[the remark this answers is not in the document]
Comment (david-christiansen) [reply src/Init/Data/Nat/Log2.lean:21]: Good point! Done!

File: src/Init/Prelude.lean (hunk 1 above)
Comment (david-christiansen) [reply src/Init/Prelude.lean:1144]: I think this belongs in the reference manual, where it's much easier to read long text. I'll make sure it's added there.

File: src/Init/Prelude.lean (hunk 3 above)
Comment (david-christiansen) [reply src/Init/Prelude.lean:1718]: I'll add it with an extra comma after "weak"

File: src/Init/Prelude.lean (hunk 1 above)
Comment (david-christiansen) [reply src/Init/Prelude.lean:1144]: https://github.com/leanprover/reference-manual/pull/367

File: src/Init/Prelude.lean (hunk 2 above)
Comment (david-christiansen) [reply src/Init/Prelude.lean:1626]: https://github.com/leanprover/reference-manual/pull/367
